US07851493B2
1.05 g 3-{2-Methyl-4-[4-(tetrahydro-pyran-2-yloxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one was suspended in 80 ml methanol. 66.0 mg p-Toluenesulfonic acid were added and the reaction mixture warmed to 60° C. until the reaction mixture became a clear solution. The cooled reaction mixture was evaporated in vacuo. The residue was dissolved in a mixture of 10 ml dimethylformamide and 40 ml dichloromethane. 3.76 g Manganese (IV) oxide on activated charcoil were added and the reaction mixture heated to reflux for two hours. The cooled reaction mixture was filtered through a celite pad. The filtrate was evaporated in vacuo to obtain 670 mg crude 5-[3-methyl-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazole-4-carbaldehyde which was used without further purification.

reactant | 3-{2-Methyl-4-[4-(tetrahydro-pyran-2-yloxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 1.05 g | CC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1OCCCC1)C1=NOC(N1)=O | C26H24F3N3O5S
reactant | p-Toluenesulfonic acid | 66.0 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 80 ml | CO | CH4O
product | 5-[3-methyl-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazole-4-carbaldehyde | 670 mg | CC=1C=C(OCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)C=O)C=CC1C1=NOC(N1)=O | C21H14F3N3O4S
